US06943183B2
2. 5-Amino-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
A mixture of 5-nitro-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (2.05 g, 5.43 mmol), MeOH (135 mL), H2O (30 mL) and glacial acetic acid (3.1 mL, 54 mmol) was treated at reflux with iron powder (3.01 g, 54 mmol). The reaction was monitored by mass spectrometry and was complete in 5 h. The volume of solvent was reduced under reduced pressure. EtOAc and dilute aqueous NaHCO3 were added. A brownish-green emulsion formed which was filtered through Celite. The mixture was extracted with EtOAc. The combined organic layer was washed with dilute aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated under reduced pressure to give a brown solid. Purification by chromatography (EtOAc then 6% MeOH/CH2Cl2) gave the product as a tan solid (1.43 g, 4.12 mmol, 76%). The structure was confirmed by NMR and mass spectrometry. MS m/z 348 (M++H).

reactant | 5-nitro-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 5.43 mmol, 2.05 g | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C21H19N3O4
reactant | MeOH | 135 mL | CO | CH4O
reactant | acetic acid | 54 mmol, 3.1 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | iron | 54 mmol, 3.01 g | [Fe] | Fe
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 30 mL | O | H2O
product | 5-Amino-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 4.12 mmol, 1.43 g, 76% | NC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C21H21N3O2
